US07323475B2
a) 1-Chloro-4-hydroxy-6-iodo-isoquinoline-3-carboxylic acid butyl ester
Analogously to Example D-43 d), 0.150 g of 4-hydroxy-6-iodo-1-oxo-1,2-dihydro-isoquinoline-3-carboxylic acid butyl ester was allowed to react with 5 ml of POCl3 to afford 0.057 g of a pale white solid: Proton NMR (200 MHz, chloroform-d): δ 11.9 (s, 1H), 8.89 (m, 1H), 8.1 (m, 1H), 7.97 (m, 1H), 4.5 (t, J=7 Hz, 2H), 2.0-1.8 (m, 1.65-1.4 (m, 2H), 1.00 (t, J=7 Hz, 3H).

reactant | 4-hydroxy-6-iodo-1-oxo-1,2-dihydro-isoquinoline-3-carboxylic acid butyl ester | 0.150 g | C(CCC)OC(=O)C=1NC(C2=CC=C(C=C2C1O)I)=O | C14H14INO4
reactant | POCl3 | 5 ml | O=P(Cl)(Cl)Cl | Cl3OP
product | 1-Chloro-4-hydroxy-6-iodo-isoquinoline-3-carboxylic acid butyl ester | 0.057 g | C(CCC)OC(=O)C=1N=C(C2=CC=C(C=C2C1O)I)Cl | C14H13ClINO3
